US08563569B2
Into a EtOH (250 mL) solution of 4-(5-nitropyridin-2-yl)morpholine (4.9 g, 23.4 mmol), 10% Pd on activated carbon, 500 mg, was added. Hydrogenation was carried out in a Parr flask at room temperature, at 40 psi for 2 hr. The solids were filtered off and the filtrate was collected. The solvent was removed in vacuo. 6-Morpholinopyridin-3-amine, as a purple solid, was obtained: 3.7 g (88% yield); 1H NMR (300 MHz, DMSO) δ 7.64 (d, J=2.7, 1H), 6.96 (dd, J=2.7, 8.8, 1H), 6.65 (d, J=8.8, 1H), 4.63 (s, 2H), 3.72-3.69 (m, 4H), 3.21-3.18 (m, 4H); LCMS (M+) m/z 180.08.

reactant | 4-(5-nitropyridin-2-yl)morpholine | 23.4 mmol, 4.9 g | [N+](=O)([O-])C=1C=CC(=NC1)N1CCOCC1 | C9H11N3O3
catalyst | Pd on activated carbon | [Pd] | Pd
solvent | EtOH | 250 mL | CCO | C2H6O
product | 6-Morpholinopyridin-3-amine | 88% yield | O1CCN(CC1)C1=CC=C(C=N1)N | C9H13N3O
